US07078428B2
3-Hydroxy-2-benzyl-2,3-dihydroisoindol-1-one is prepared as described in Example 1, starting with 10.2 g of N-benzylphthalimide in 100 cm3 of methanol and 2.6 g of potassium borohydride. The reaction mixture is stirred at a temperature in the region of 20° C. for 20 hours and is then cooled to a temperature in the region of 0° C. and 50 cm3 of distilled water are added dropwise. The methanol is then partially evaporated off under reduced pressure (2 kPa) at a temperature in the region of 40° C., followed by addition of a further 50 cm3 of distilled water. The aqueous phase is extracted 3 times with 50 cm3 of ethyl acetate. The organic extracts are combined, washed with 50 cm3 of brine, dried over magnesium sulfate, filtered and then concentrated to dryness under reduced pressure (2 kPa) at a temperature in the region of 40° C. The residue is dried in a desiccator under reduced pressure (2 kPa) at a temperature in the region of 20° C. 9.5 g of 3-hydroxy-2-benzyl-2,3-dihydroisoindol-1-one are thus obtained in the form of a white powder. (Rf=0.20, thin layer chromatography on silica gel, eluent: cyclohexane/ethyl acetate (75/25 by volume)).

reactant | N-benzylphthalimide | 10.2 g | C(C1=CC=CC=C1)N1C(C=2C(C1=O)=CC=CC2)=O | C15H11NO2
reactant | water | 50 cm3 | O | H2O
solvent | methanol | 100 cm3 | CO | CH4O
solvent | potassium borohydride | 2.6 g | [BH4-].[K+]
product | 3-hydroxy-2-benzyl-2,3-dihydroisoindol-1-one | 9.5 g | OC1N(C(C2=CC=CC=C12)=O)CC1=CC=CC=C1 | C15H13NO2
